US04892870
To a stirred mixture of 12.5 g (150 mmol) of N-methylhydroxylamine hydrochloride, 20.7 g (150 mmol) of potassium carbonate and 4.1 g (15 mmol) of tetrabutylammonium hydrogen sulfate in 250 ml of methylene chloride, there was added 2, 3-dibromobutyryl chloride (42 g,150 mmol) followed by the addition of 41.4 g (300 mmol) of potassium carbonate. After three days the mixture was filtered, the filtrate was concentrated and the concentrate was chromatographed on silica gel with 40% ethyl acetate-hexane to afford 16.8 g (86 mmol, 57%) of 4-bromo-2,5-dimethyl-3-isoxazolidinone.

reactant | N-methylhydroxylamine hydrochloride | 150 mmol, 12.5 g | Cl.CNO
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2, 3-dibromobutyryl chloride | 150 mmol, 42 g | BrC(C(=O)Cl)C(C)Br | C4H5Br2ClO
reactant | potassium carbonate | 300 mmol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium hydrogen sulfate | 15 mmol, 4.1 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-2,5-dimethyl-3-isoxazolidinone | 86 mmol, 16.8 g, 57% | BrC1C(N(OC1C)C)=O | C5H8BrNO2
